US05506089
A mixture of 4-styrylpyridine (0.181 g) and 1,4-dibromobutane (0.432 g) in ethylacetate (5 ml) was stirred and refluxed for 24 hours, and then filtered. The crystals obtained were washed and dried to give 0.31 of N-(4-bromobutyl)-4-styrylpyridinium bromide λmax 344 nm (water). NMR (CDCl3, p.p.m.): 9.4(d.,2H), 8.0(d.,2H), 7.0-7.7(m.,7H), 4.9(T.,2H), 3.4(m.,2H), 2.0(m.,4H).

reactant | 4-styrylpyridine | 0.181 g | C(=CC1=CC=CC=C1)C1=CC=NC=C1 | C13H11N
reactant | 1,4-dibromobutane | 0.432 g | BrCCCCBr | C4H8Br2
solvent | ethylacetate | 5 ml | C(C)OC(C)=O | C4H8O2
product | N-(4-bromobutyl)-4-styrylpyridinium bromide | [Br-].BrCCCC[N+]1=CC=C(C=C1)C=CC1=CC=CC=C1 | InChI=1S/C17H19BrN.BrH/c18-12-4-5-13-19-14-10-17(11-15-19)9-8-16-6-2-1-3-7-16;/h1-3,6-11,14-15H,4-5,12-13H2;1H/q+1;/p-1
